US05462934
1-(3-Acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-(piperidin-1-yl)-1-ethanone hydrochloride
In 10 ml of dichloromethane was dissolved 1.50 g of 1-(3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-chloro-1-ethanone obtained in Reference Example 2. To the solution was added 1.7 ml of piperidine, and the mixture was stirred for one hour at room temperature. The reaction mixture was poured into an aqueous solution of potassium carbonate, which was subjected to extraction with dichloromethane. The extract was dried over anhydrous sodium sulfate, from which was distilled off the solvent to leave an oily residue. To the residue was dissolved in 5 ml of methanol, to which was added 1.7 ml of 4N methanolic hydrochloric acid. Then the solvent was distilled off to leave 1.50 g of the title compound as colorless powder.

reactant | 1-(3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-chloro-1-ethanone | 1.50 g | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)C(CCl)=O | C14H16ClNO2
reactant | piperidine | 1.7 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 4N, 1.7 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | 1-(3-Acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-(piperidin-1-yl)-1-ethanone hydrochloride | 1.50 g | Cl.C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)C(CN2CCCCC2)=O | InChI=1S/C19H26N2O2.ClH/c1-15(22)21-11-7-16-5-6-18(13-17(16)8-12-21)19(23)14-20-9-3-2-4-10-20;/h5-6,13H,2-4,7-12,14H2,1H3;1H
